US07842689B2
Preparation of 2-phenylpiperidin-1-ol
Activated MnO2 (1.29 g, 14.8 mmol) was added to a solution of N-hydroxypiperidine (0.50 g, 4.95 mmol) in dichloromethane (25 mL) at 0° C. and the mixture was stirred for 1 h. The reaction mixture was filtered through a pad of Celite™ and Na2SO4. The filtrate was added dropwise to a solution of phenylmagnesium chloride (2.0 M in tetrahydrofuran, 4.95 mL, 9.90 mmol) at −10° C. The reaction mixture was stirred at 0° C. for 0.5 h and then saturated aqueous ammonium chloride solution (25 mL) and dichloromethane (25 mL) were added. The aqueous phase was separated and extracted with dichloromethane (2×30 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. The crude product was subjected to flash chromatography on SiO2 eluting with 30% diethyl ether in hexanes to give the title compound (0.330 g, 38%) as a white crystalline solid.

reactant | N-hydroxypiperidine | 4.95 mmol, 0.50 g | ON1CCCCC1 | C5H11NO
reactant | phenylmagnesium chloride | 9.90 mmol, 2.0 M, 4.95 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 14.8 mmol, 1.29 g | O=[Mn]=O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-phenylpiperidin-1-ol | 0.330 g, 38% | C1(=CC=CC=C1)C1N(CCCC1)O | C11H15NO
